US03935015
Preparation of Coupler (2), 1-(2,4,6-Trichlorophenyl)-3-(2-methoxy-5-n-tetradecanoylaminoanilino)-5-pyrazolone:
The 1-(2,4,6-trichlorophenyl)-3-(2-methoxy-5-aminoanilino)-5-pyrazolone prepared in the above procedure was reacted with myristic acid chloride prepared using Method (3) of Synthesis Example 1 to give the desired product having a melting point of 89°-93°C.

reactant | 1-(2,4,6-trichlorophenyl)-3-(2-methoxy-5-aminoanilino)-5-pyrazolone | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=CC1=O)NC1=C(C=CC(=C1)N)OC | C16H13Cl3N4O2
reactant | myristic acid chloride | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
product | 1-(2,4,6-Trichlorophenyl)-3-(2-methoxy-5-n-tetradecanoylaminoanilino)-5-pyrazolone | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=CC1=O)NC1=C(C=CC(=C1)NC(CCCCCCCCCCCCC)=O)OC | C30H39Cl3N4O3
